US08134001B2
Preparation of intermediate 5-fluoro-2-{4-[2-(tert-butyl-dimethyl-silanyloxy)ethoxy]-Phenoxy}-benzaldehyde
In a similar manner to the method described in Example 140a, 2,4-difluoro-benzaldehyde (Aldrich) reacted with 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenol and potassium carbonate to give a light brown oil which solidifies on standing.

reactant | 2,4-difluoro-benzaldehyde | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenol | C(C)(C)(C)[Si](OCCOC1=CC=C(C=C1)O)(C)C | C14H24O3Si
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 5-fluoro-2-{4-[2-(tert-butyl-dimethyl-silanyloxy)ethoxy]-Phenoxy}-benzaldehyde | FC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)OCCO[Si](C)(C)C(C)(C)C | C21H27FO4Si
